US04618683
4-Keto-γ-(2-methoxy-5-methylphenyl)-butyric acid
A solution of ethyl-4-keto-γ-(2-methoxy-5-methylphenyl)-butyrate (180 g, 0.81 mole) and 1200 mL 20% NaOH was stirred at reflux for 3 hours. After cooling to 0°, the solution was acidified with concentrated HCl. The solid was filtered, washed with water, dried (in-vacuo) to yield 145 g orange solid. Recrystallization from CCl4 yielded 123 g light yellow powder, (68%).

reactant | ethyl-4-keto-γ-(2-methoxy-5-methylphenyl)-butyrate | 0.81 mole, 180 g | C(C)OC(CCC(C1=C(C=CC(=C1)C)OC)=O)=O | C14H18O4
reactant | HCl | Cl | ClH
solvent | NaOH | 1200 mL | [OH-].[Na+]
product | 4-Keto-γ-(2-methoxy-5-methylphenyl)-butyric acid | 145 g | O=C(CCC(=O)O)C1=C(C=CC(=C1)C)OC | C12H14O4
